US07456164B2
1-[3-({4-[4-(pyrrolidin-1-ylmethyl)tetrahydro-2H-pyran-4-yl]phenyl}thio)propyl]pyrrolidine
The title compound (58 mg, 27%) was prepared using 1-[3-({4-[4-(pyrrolidin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenyl}thio)propyl]pyrrolidine and lithium aluminium hydride similarly to the procedure used for example 142. 1H NMR (400 MHz, CDCl3) δ 1.54-1.57 (m, 4H), 1.75-1.79 (m, 4H), 1.84-1.94 (m, 4H), 2.06-2.10 (m, 2H), 2.18-2.22 (m, 4H), 2.47-2.50 (m, 4H), 2.57 (t, 2H), 2.63 (s, 2H), 2.96 (t, 2H), 3.54 (t, 2H), 3.73-3.78 (m, 2H), 7.22 (d, 2H), 7.29 (d, 2H). HRMS ESI+ m/z 389.2615 [MH]+.

reactant | 1-[3-({4-[4-(pyrrolidin-1-ylcarbonyl)tetrahydro-2H-pyran-4-yl]phenyl}thio)propyl]pyrrolidine | N1(CCCC1)C(=O)C1(CCOCC1)C1=CC=C(C=C1)SCCCN1CCCC1 | C23H34N2O2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-[3-({4-[4-(pyrrolidin-1-ylmethyl)tetrahydro-2H-pyran-4-yl]phenyl}thio)propyl]pyrrolidine | 58 mg, 27% | N1(CCCC1)CC1(CCOCC1)C1=CC=C(C=C1)SCCCN1CCCC1 | C23H36N2OS
